US05516788
cis-4b,5,9b,10-Tetrahydro-2-methoxy-1,3-dimethylindeno[1,2-b]indole
5,10-Dihydro-2-methoxy-1,3-dimethylindeno[1,2-b]indole (1 g, 3.80 mmol) was stirred at room temperature in glacial acetic acid (15 cm3). Sodium cyanoborohydride (0.75 g, 3 equivalents) was added portionwise over 15 minutes, and the reaction stirred for a further two hours. The reaction was poured into ice/water (30 cm3), and stirred for a further 30 minutes. The solution was neutralised with aqueous sodium hydroxide, and extracted into diethyl ether. The organic extracts were copiously washed with water until the washings were free of cyanide ion. The solvent was removed in vacuo to give the title compound. This was purified by column chromatography to a colourless solid. Yield: 0.8 g (79%). M.p. 117° C. from EtOAc/petrol (60°-80° C.). Elementary analysis: Found: C 81.6, H 7.3, N 5.8, C18H19NO Calc. for C 81.5, H 7.2, N 5.9, 1H NMR (CDCl3) δ: 2.15 (3H, s,), 2.25 (3H, s,), 3.07 (1H, dd,), 3.36 (1H, dd,), 3.64 (3H, s,), 4.1 (1H, br,), 4.19 (1H, ddd,), 5.20 (1H, d,), 6.60 (1H, d,), 6.74 (1H, ddd,), 6.97 (1H, s,), 7.00 (1H, ddd,), 7.17 (1H, d,).

reactant | 5,10-Dihydro-2-methoxy-1,3-dimethylindeno[1,2-b]indole | 3.80 mmol, 1 g | COC=1C(=C2CC3=C(NC=4C=CC=CC34)C2=CC1C)C | C18H17NO
reactant | Sodium cyanoborohydride | 0.75 g, 3 equivalents | C(#N)[BH3-].[Na+]
reactant | sodium hydroxide | [OH-].[Na+]
solvent | acetic acid | 15 cm3 | C(C)(=O)O | C2H4O2
product | cis-4b,5,9b,10-Tetrahydro-2-methoxy-1,3-dimethylindeno[1,2-b]indole | COC=1C(=C2C[C@H]3[C@H](NC=4C=CC=CC34)C2=CC1C)C | C18H19NO
